US04242350
A suspension of 3-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole (10 g.) in ethanol (200 ml.) was stirred and cooled to 10° with external ice cooling. Methylamine (166 g.) was passed into the suspension over 2 hours at such a rate that the temperature did not rise above 17° with external ice cooling. After 80 g. had been added, all was in solution. After 4 hours the ice bath was removed and excess methylamine was allowed to evaporate overnight. The final volume was about 120 ml. The product was filtered off, washed with a little ethanol, sucked dry and dried at 60°/0.3 m.m. Recrystallisation from aqueous ethanol (1:3 v/v) gave 3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole, m.p. 198°-199°.

reactant | 3-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | 10 g | C(#N)N=C(NCCSCC1=NSC(=N1)NC(=N)N)SC | C9H14N8S3
reactant | Methylamine | 166 g | CN | CH5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | C(#N)N=C(NCCSCC1=NSC(=N1)NC(=N)N)NC | C9H15N9S2
